US05681833
6. α-Amino-N-(2,3-dihydro-5-(4-methylpiperazin-1-yl)-2-oxo-1-propyl-1H-1,4-benzodiazepin-3-yl)benzene propanamide
To a stirred solution of 3-amino-1,2-dihydro-5-(4-methylpiperazin-1-yl)-1-propyl-3H-1,4-benzodiazepin-2-one (2.96 g) in anhydrous dimethylformamide (30 ml) was added BOC-D-phenylalanine (2.61 g), 1-hydroxybenzotriazole (1.33 g), 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (1.89 g) and triethylamine (1.37 ml). After stirring at room temperature for 15 minutes the solution was treated with saturated sodium hydrogen carbonate solution then extracted with ethyl acetate (4×100 ml). The combined organic phases were washed with saturated sodium chloride solution, dried (Na2SO4), evaporated to dryness and the residue purified by column chromatography on silica using 5% methanol/dichloromethane to 10% methanol/dichloromethane. The product obtained (5.28 g) was treated at 0° C. with ethyl acetate (100 ml) saturated with hydrogen chloride gas and stirred at 0° C. for 1 hour. The solution was basified to pH 9 with saturated sodium hydrogen carbonate solution, the organic layer was separated and the aqueous re-extracted with ethyl acetate (4×100 ml). The combined organic phases were dried (Na2SO4) and the more polar (by silica tlc) diastereomer crystallised from methanol/diethyl ether to afford a solid (460 mg. mp 152°-153° C.; Rf 0.50 in dichloromethane/methanol/ammonia (9:1:0.1) on silica plates. HPLC (Spherisorb ODS2 column, 25% acetonitrile/75% of 0.2% triethylamine in water, pH to 3 with orthophosphoric acid): Rt 5.09 minutes, 99.5% pure. δH (360 MHz, DMSO-d6) δ0.68 (3H, t, J=7 Hz), 1.20-1.29 (1H, m), 1.37-1.44 (1H, m), 2.19 (3H, s), 2.25-2.35 (2H, m), 2.40-2,48 (2H, m), 2.59 (1H, dd, J=9 and 13 Hz), 3.00 (1H, dd, J=4 and 13 Hz), 3.10-3.30 (4H, m), 3.47 (1H, dd, J=4 and 9 Hz), 3.60-3.68 (1H, m), 4.19-4.28 (1H, m), 4.97 (1H, d, J=8 Hz), 7.16-7.30 (5H, m), 7.36-7.42 (1H, m), 7.55 (1H, d, J=8 Hz), 7.63-7.66 (2H, m), 8.76 (1H, d, J=8 Hz). (Found: C, 67.62; H, 7.24; N, 18.17. C26H34N6O2 requires 67.51; H, 7.41; N, 18.17%).

reactant | 3-amino-1,2-dihydro-5-(4-methylpiperazin-1-yl)-1-propyl-3H-1,4-benzodiazepin-2-one | 2.96 g | NC1C(N(C2=C(C(=N1)N1CCN(CC1)C)C=CC=C2)CCC)=O | C17H25N5O
reactant | BOC-D-phenylalanine | 2.61 g | C(=O)(OC(C)(C)C)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 1-hydroxybenzotriazole | 1.33 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 1.89 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | orthophosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane methanol ammonia | ClCCl.CO.N
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1.37 ml | C(C)N(CC)CC | C6H15N
product | α-Amino-N-(2,3-dihydro-5-(4-methylpiperazin-1-yl)-2-oxo-1-propyl-1H-1,4-benzodiazepin-3-yl)benzene propanamide | NC(C(=O)NC1C(N(C2=C(C(=N1)N1CCN(CC1)C)C=CC=C2)CCC)=O)CC2=CC=CC=C2 | C26H34N6O2
